US05006530
E/Z-4-Ethoxycarbony-2,6-dimethyl-hept-4-en-3-one
158 g (1 mol) of ethyl isobutyrylacetate, 108 g (1.5 mol) of isobutyraldehyde, 8.75 ml of piperidine and 6.25 ml of acetic acid are stirred at 50° C. for 20 h in 400 ml of isopropanol. Volatile components are stripped off in a water pump vacuum and the residue is subsequently distilled in a high vacuum.

reactant | ethyl isobutyrylacetate | 1 mol, 158 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | isobutyraldehyde | 1.5 mol, 108 g | C(C(C)C)=O | C4H8O
reactant | piperidine | 8.75 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 6.25 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | Z-4-Ethoxycarbony-2,6-dimethyl-hept-4-en-3-one | C(C)OC(=O)\C(\C(C(C)C)=O)=C/C(C)C | C12H20O3
